US07037935B2
In an analogous manner to that described in Example 36a), the reaction of diethyl (4-nitrobenzyl)phosphonate with 4-chlorobenzaldehyde yields the (E)-1-chloro-4-[2-(4-nitrophenyl)ethenyl]-benzene as an yellow crystalline solid; MS: m/e=259 (M)+.

reactant | diethyl (4-nitrobenzyl)phosphonate | [N+](=O)([O-])C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H16NO5P
reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | (E)-1-chloro-4-[2-(4-nitrophenyl)ethenyl]-benzene | ClC1=CC=C(C=C1)\C=C\C1=CC=C(C=C1)[N+](=O)[O-] | C14H10ClNO2
